US04014915
A solution of benzophenone oxime (9.85 g.) and dimethylaniline (6.6 g.) in a mixture of benzene (50 ml.) and dioxane (10 ml.) was added dropwise to a solution of trichloromethyl chloroformate (phosgene dimer) (5.5 g.) in benzene (15 ml.) under ice-cooling. The resultant mixture was stirred for 1 hour at the same temperature, for 2 hours at room temperature and then allowed to stand overnight. A solution of tert-butyl alcohol (5.6 g.) and pyridine (6.0 ml.) in benzene (20 ml.) was added dropwise, under ice-cooling to the resultant mixture containing benzophenone O-chlorocarbonyloxime. The mixture was stirred for 6 hours at the same temperature and allowed to stand overnight. The reaction mixture was then washed with water, 1N hydrochloric acid, water, a sodium bicarbonate aqueous solution and water, and dried over magnesium sulfate. The solvent was distilled off and petroleum ether was added to the resulting crystals. The crystals were collected by filtration and dried to give benzophenone O-tert-butoxycarbonyloxime (10.5 g.), mp 126° to 133° C. A small amount of the crystals was recrystallized from a mixture of toluene and petroleum ether to give the pure compound, mp 131° to 133° C.

reactant | benzophenone oxime | 9.85 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | dimethylaniline | 6.6 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | trichloromethyl chloroformate | 5.5 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | benzophenone O-chlorocarbonyloxime | ClC(=O)ON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C14H10ClNO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 6.0 ml | N1=CC=CC=C1 | C5H5N
solvent | tert-butyl alcohol | 5.6 g | C(C)(C)(C)O | C4H10O
product | benzophenone O-tert-butoxycarbonyloxime | 10.5 g | C(C)(C)(C)OC(=O)ON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H19NO3
